US06472392B1
3-{3-[4-(2-t-Butyl-6-trifluoromethylpyrimidin-4-yl)piperazin-1-yl]propoxy}-4-methyl-5-phenyl-1,2,4-(4H)-triazole
855 mg (3mmol) of 3-iodo-4-methyl-5-phenyl-1,2,4-(4H)-triazole (prepared by iodinating 4-methyl-5-phenyl-1,2,4-(4H)-triazole by a method similar to Izv. Akad. Nauk SSSR, Ser. Khim (1975), 616-619), were stirred, at 60° C. for 6 h, with 1.04 g (3 mmol) of 2-t-butyl-4-[4-(3-hydroxypropyl)piperazin-1-yl]-6-trifluoromethyl pyrimidine (prepared, by a method similar to Example 1, A.3, by reacting the product obtained as described in Example 1, A.2 with 3-chloropropanol) and sodium hydride in DMF. For the working-up, ice water was added to the mixture and the whole was extracted several times with methyl t-butyl ether. The residue which was obtained after drying with sodium sulfate and removing the solvent was purified by column chromatography (silica gel, methylene chloride/methanol). Yield, 140 mg (9% of theory) of oil.

reactant | 3-iodo-4-methyl-5-phenyl-1,2,4-(4H)-triazole | 3mmol, 855 mg | IC1=NN=C(N1C)C1=CC=CC=C1 | C9H8IN3
reactant | 4-methyl-5-phenyl-1,2,4-(4H)-triazole | CN1C=NN=C1C1=CC=CC=C1 | C9H9N3
reactant | 2-t-butyl-4-[4-(3-hydroxypropyl)piperazin-1-yl]-6-trifluoromethyl pyrimidine | 3 mmol, 1.04 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCO)C(F)(F)F | C16H25F3N4O
reactant | 3-chloropropanol | ClCCCO | C3H7ClO
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-{3-[4-(2-t-Butyl-6-trifluoromethylpyrimidin-4-yl)piperazin-1-yl]propoxy}-4-methyl-5-phenyl-1,2,4-(4H)-triazole | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCOC1=NN=C(N1C)C1=CC=CC=C1)C(F)(F)F | C25H32F3N7O
